US07807709B2
E. (3R,4R)-3-({[4-Ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-[(methyl-phenylacetyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
From (3R,4R)-3-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.7 g, 1.38 mmol), phenylacetyl chloride (0.22 mL, 1.66 mmol) and triethylamine (0.21 mL, 2.1 mmol) in CH2Cl2 (40 mL) and purification by flash chromatography on silica gel (c-hexane/AcOEt 1:1 to 0:1) to give the title compound as colorless oil. TLC, Rf (AcOEt)=0.30. MS (LC-MS): 624.0 [M+H]+; tR (Waters Symmetry C18 column, 20-100% CH3CN/H2O/5 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 4.41 min.

reactant | (3R,4R)-3-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.38 mmol, 0.7 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O | C28H47N3O5
reactant | phenylacetyl chloride | 1.66 mmol, 0.22 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 2.1 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (3R,4R)-3-({[4-Ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-[(methyl-phenylacetyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(CC1=CC=CC=C1)=O)C)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O | C36H53N3O6
